US07202245B2
Hydrazine monohydrate (0.26 mL) was added dropwise to a suspension of 2,3-dichloro-quinoxaline-6-carboxylic acid methyl ester (1.2 g) in methanol (10 mL) at −10° C. After three hrs. at this temperature, an additional portion of hydrazine monohydrate (0.26 mL) was added, and the resulting mixture was stirred at 0° C. for three hrs., and then for one hr. at 23° C. The suspension was filtered, and the solids were washed with MeOH. Flash column chromatography provided a residue that was recrystallized from MeOH to provide 3-chloro-2-hydrazino-quinoxaline-6-carboxylic acid methyl ester as a yellow solid. MS (M+H)+=253.2.

reactant | Hydrazine monohydrate | 0.26 mL | O.NN
reactant | 2,3-dichloro-quinoxaline-6-carboxylic acid methyl ester | 1.2 g | COC(=O)C=1C=C2N=C(C(=NC2=CC1)Cl)Cl | C10H6Cl2N2O2
reactant | hydrazine monohydrate | 0.26 mL | O.NN
solvent | methanol | 10 mL | CO | CH4O
product | 3-chloro-2-hydrazino-quinoxaline-6-carboxylic acid methyl ester | COC(=O)C=1C=C2N=C(C(=NC2=CC1)NN)Cl | C10H9ClN4O2
